US04143154
A mixture of 99 g. (0.29 mole) of the known (Belgian Pat. No. 846,502, Example 22) compound ethyl 3-(4-bromophenyl)benzofuran-5-acetate in 40 g. of cuprous cyanide in 30 ml. of pyridine is heated at 160°-175 C. with stirring under a nitrogen atmosphere for 20 hours. To this solution is added 200 g. of ferric chloride, 100 ml. of concentrated hydrochloric acid, and 200 ml. of ice water with rapid stirring. Next, 300 ml. of chloroform is added, and the mixture is stirred for one hour, then filtered, and the insoluble material is extracted several times with chloroform. The combined chloroform extracts are dried and evaporated to provide a residue. The residue is recrystallized from a N,N-dimethyl formamide-water mixture to provide ethyl 3-(4-cyanophenyl)benzofuran-5-acetate.

reactant | ethyl 3-(4-bromophenyl)benzofuran-5-acetate | BrC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)CC(=O)OCC | C18H15BrO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-(4-cyanophenyl)benzofuran-5-acetate | C(#N)C1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)CC(=O)OCC | C19H15NO3
